Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / Percodan / Darvocet-N 100
 
Attending: ___.
 
Chief Complaint:
"Nausea/Vomiting/Diarrhea."
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mrs. ___ is a pleasant ___ y/o woman with T1DM (diagnosed at 
age ___ c/b peripheral neuropathy and difficulty with glycemic 
control,  
recent cholecystectomy on ___, hx of ICA aneurysm and CVA 
with residual hearing loss in R ear presenting with nausea 
vomiting and diarrhea. She developed diffuse abdominal soreness 
about one week ago, with onset of watery, nonbloody diarrhea 
three days ago with about ___ episodes daily. Yesterday, she 
developed severe nausea and vomiting at about 5 episodes daily, 
which was nonbilious and nonbloody. These symptoms are similar 
to her typical gastroparetic episodes, except that she also has 
RUQ stabbing pain at ___ as well. She is status post CCY in 
___. It is nonradiating and worsened with vomiting. Of 
note, she down-titrated her reglan from 10mg QID to once daily 
one month ago- she denies any change in her symptoms since that 
time.  
.  
In the ED, initial VS: T98.5 ___ BP107/60 RR16 Sat100%. She was 
found to have hyperglycemia >500 without anion gap, glycosuria, 
and ketouria. She was treated with 8 units regular insulin, 
2LNS, morphine, and zofran prior to admission to the floor. Last 
FSG prior to transfer was 404, which is essentially at baseline. 
 
.  
Upon arrival to the medicine floor, her initial vitals were: T98 
BP120/78 P70 RR-16 ___ 100 RA. Initial FSG 150. She notes some 
abdominal pain but is eager to try some crackers. She denies any 
sick contacts or recent travel. Of note, her FSG have been 
increasingly brittle recently, often exceeding 600 before 
plummetting to 35 with modest insulin doses (___). She does 
not get typical symptoms of hypoglycemia, which has complicated 
her control at home. She has ___ appt in a few weeks.  
 
Past Medical History:
-DM, type I - dx age ___, poorly controlled, complicated by 
peripheral neuropathy, necrobiosis lipodoica, A1c 9.1 on ___ 
 
-GI bleed - ___.  
-Aneurysm/CVA ___ - 1mm aneurysm in L cavernous segment of ICA, 
residual right hearing loss  
-Raynaud's syndrome  
-Migraines  
-Hx pre-eclampsia with birth of twins in ___  
-D&C (x2?) for abnormal uterine bleeding  
-s/p appendectomy ___  
-s/p tubal Ligations ___  
-s/p cholecystectomy ___  

 
Social History:
___
Family History:
mother with lung cancer. father alive and well. paternal gm  
breast cancer  
 
Physical Exam:
Admission Exam
VS - T98 BP120/78 P70 RR16 ___ 100RA. Initial FSG 150  
GENERAL - well-appearing in NAD  
HEENT - PERRLA, EOMI, sclerae anicteric, MM dry  
NECK - supple, no thyromegaly  
LUNGS - clear to auscultation bilaterally  
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - +BS. Diffusely sore to palpation with mild tenderness 
to palp in the RUQ, equivocal ___.  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout
.
Discharge Exam
Tm 99.3 Tc 97.2 HR 73 BP 90/60 recheck 116/82 RR 18 SaO2 97 on 
RA  
BG 210-74  
GENERAL: AAOX3, NAD  
HEENT: CN ___ grossly intact, MMM  
NECK: no lad, no obvious thryomegaly  
___: RRR, no RMG  
LUNGS: CTAB, no WRR  
ABDOMEN: flat, diffuse mild TTP, greatest in RUQ, no rebound, no 
HSM  
SKIN: no obvious rashes  
Extremities: decreased sensation in RLQ, decreased strength in 
ble ___, pulses 2+ and equal, otherwise strength and sensation 
is wnl  
NEURO: CN's intact, strength and sensation per above  
Psych: flat affect  

 
Pertinent Results:
On Admission:

___ 05:00PM BLOOD WBC-8.5 RBC-4.15* Hgb-10.4* Hct-32.0* 
MCV-77* MCH-25.1* MCHC-32.5 RDW-14.9 Plt ___
___ 05:00PM BLOOD Neuts-70.0 ___ Monos-3.7 Eos-1.7 
Baso-0.4
___ 05:00PM BLOOD Glucose-527* UreaN-11 Creat-0.6 Na-132* 
K-3.8 Cl-98 HCO3-21* AnGap-17
___ 05:00PM BLOOD ALT-16 AST-13 AlkPhos-53 TotBili-0.2
___ 05:00PM BLOOD Lipase-64*
___ 05:00PM BLOOD Albumin-4.2
___ 06:15AM BLOOD Calcium-7.8* Phos-3.8 Mg-1.7

On Discharge:

___ 07:10AM BLOOD WBC-5.3 RBC-4.05* Hgb-9.9* Hct-31.4* 
MCV-78* MCH-24.4* MCHC-31.4 RDW-14.9 Plt ___
___ 07:10AM BLOOD Plt ___
___ 07:10AM BLOOD Glucose-220* UreaN-11 Creat-0.5 Na-138 
K-3.8 Cl-104 HCO3-26 AnGap-12
___ 07:10AM BLOOD Calcium-8.0* Phos-4.1 Mg-1.9
___ 07:10AM BLOOD Lipase-19

Portable Abdomen on ___
IMPRESSION: An upright and a left decubitus view of the abdomen 
show no
pneumoperitoneum. Small bowel is relatively gasless, and could 
be fluid
filled, but the colon is normal caliber throughout, not findings 
to suggest
small bowel obstruction. Extensive phleboliths project over the 
pelvis, not
to be confused with renal stones, although a tiny renal stone 
could hide among the multiple, smaller venous calcifications.
 
Brief Hospital Course:
Ms. ___ is a ___ with type 1 DM, known gastroparesis with 
frequent flares, and h/o ICA anyeurism/CVA presenting with 
nausea, vomiting and abdominal pain, likely due to viral 
gastroenteritis and/or exacerbation of her gastroparesis.

#. nausea/vomiting/abdominal pain.   The patient developed 
vomiting/abdominal pain and diarrhea which more consistent with 
a viral gastroenteritis although we could not rule out an 
exacerbation of her gastroparesis.  She was started on 
anti-emetics, bowel rest and usual pain control.  She was 
started on a regular diet, but could only tolerate clears on 
HD#2, due to abdominal pain.  Lipase, LFT's were neg.  She was 
able to tolerate clears with minimal pain and was discharge on 
metoclopramide QID.  She should have close follow up with her 
PCP and ___ for med rec, evaluation of her gastroparesis and 
DM management.

#. DIABETES/HYPERGLYCEMIA: She has typically brittle glycemic 
control at home. The acute stress of N/V likely led to 
counterregulatory surge and worsening glycemia.  Her sugars 
ranged from 74 to the ___ was consulted and adjusted 
her her insulin regimen.  She was discharge on a HISS and lantus 
25mg QHS.
.
#. DEPRESSION: Duloxetine was continued throughout her hospital 
course.
.
#Transitional Issues:
-Close follow up with PCP and ___ in ___ weeks
-Patient requested consult with surgeon for possible port 
placement-this idea was brought up by PCP
 
___ on ___:
1. metoclopramide 10 mg Tablet QD  
2. insulin lispro 100 unit/mL Solution Sig: See attached sliding 
 
scale Subcutaneous ASDIR: see attached sheet for sliding scale  
information.  
3. Lantus 25 units qAM  
4. duloxetine 60 mg daily 
 
Discharge Medications:
1. duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. metoclopramide 10 mg Tablet Sig: One (1) Tablet PO four times 
a day.  
3. insulin sliding scale
Please take the insulin per attached sliding scale
4. ZOFRAN ODT 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every four (4) hours as needed for nausea.
Disp:*10 Tablet, Rapid Dissolve(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
gastroenteritis
gastroparesis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to ___ for 
nausea, vomiting, and diarrhea.  You were treated with 
anti-emetics and are now doing better.  You were also found to 
be hyperglycemic and were treated with extra doses of insulin.  
Please follow up with with your primary care provider ___ 1 
week of discharge.  Please also follow up with ___ on 
___.

Medication Changes:
-Take Zofran 4 mg as needed for nausea
-Please see changes to your insulin sliding scale per ___ 
consult recommendations. 
-continue all other medications as prescribed
 
Followup Instructions:
___